US08207177B2
Step c: (1R,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentanecarbaldehyde
((1S,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)methanol (257.0 mg, 0.0005369 mol) was dissolved in methylene chloride (10.0 mL) under argon. N-Methylmorpholine N-oxide (126 mg, 0.00107 mol), and 4 Å molecular sieves (250 mg, freshly flame dried) were then added and the mixture was stirred for 10 minutes at room temperature. Tetrapropylammonium perruthenateVII (18.9 mg, 0.0000537 mol) was then added, and the resulting dark green solution was stirred for 1 h at room temperature. The reaction mixture was filtered through a silica gel plug, eluting with DCM (20 mL), followed by 50% ethyl acetate in DCM (150 mL). The eluate was evaporated to provide the product as a clear light green oil. The residue was carried on to the next reaction without further purification.

reactant | ((1S,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentyl)methanol | 0.0005369 mol, 257.0 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](C[C@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)CO | C27H38N4O2Si
reactant | N-Methylmorpholine N-oxide | 0.00107 mol, 126 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | methylene chloride | 10.0 mL | C(Cl)Cl | CH2Cl2
product | (1R,2S,4R)-2-[tert-butyl(dimethyl)silyl]oxy-4-{4-[(1S)-2,3-dihydro-1H-inden-1-ylamino]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}cyclopentanecarbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@@H](C[C@H](C1)N1C=CC2=C1N=CN=C2N[C@H]2CCC1=CC=CC=C21)C=O | C27H36N4O2Si
